US05723671
Synthesis of N,N-bis(3,4-dimethylphenyl)-4-biphenylamine
In a 250 milliliter round-bottomed flask equipped with mechanical stirrer and fitted with a Dean-Stark trap under a reflux condenser were placed 8.46 grams (0.05 mole) of 4-aminobiphenyl, 25.53 grams (0.11 mole) of 4-iodo-ortho-xylene, 0.25 gram (0.0025 mole) of cuprous chloride, 0.45 gram (0.0025 mole) of 1,10-phenanthroline, 22.4 grams (0.4 mole) of flake potassium hydroxide and 30 milliliters of toluene solvent. The reaction was heated quickly to a reflux temperature of 130° C. and maintained at this temperature for 4 hours, after which time chromatographic analysis revealed the reaction to be complete. The reaction mixture was allowed to attain room temperature, about 25° C., and was partitioned between 200 milliliters of toluene and 150 milliliters of deionized water. The resulting organic layer was separated and water was removed by azeotropic distillation of water under a Dean-Stark trap. The product was decolorized by slurry treating the toluene solution with 36 grams of Filtrol-24™, an acid-washed clay, and 24 grams of Alcoa CG-20 alumina. After 3 hours stirring at reflux, the solution was cooled to room temperature and filtered. The product of N,N-bis(3,4-dimethylphenyl)-4-biphenylamine was recovered from the filtrate by evaporation of the solvent. Recrystallization from 40 milliliters of a one to one mixture of ethylacetate-isopropanol provided 13.2 grams (70 percent) of the above product. Chromatographic analysis by high performance liquid chromatography illustrated an excellent product purity of 99.8 percent and a melting temperature, which was determined by differential scanning calorimetry to be 113.21° C.

reactant | 4-aminobiphenyl | 0.05 mole, 8.46 grams | NC1=CC=C(C=C1)C1=CC=CC=C1 | C12H11N
reactant | 4-iodo-ortho-xylene | 0.11 mole, 25.53 grams | IC=1C=C(C(=CC1)C)C | C8H9I
reactant | potassium hydroxide | 0.4 mole, 22.4 grams | [OH-].[K+]
solvent | toluene | 30 milliliters | C1(=CC=CC=C1)C | C7H8
catalyst | 1,10-phenanthroline | 0.0025 mole, 0.45 gram | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
product | N,N-bis(3,4-dimethylphenyl)-4-biphenylamine | 13.2 grams, 70 percent | CC=1C=C(C=CC1C)N(C1=CC=C(C=C1)C1=CC=CC=C1)C1=CC(=C(C=C1)C)C | C28H27N
